US04414225
6-Benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride
3.1 gm (0.096 mol) of 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylic acid hydrochloride were refluxed for 48 hours in 30 ml of concentrated hydrochloric acid. After cooling, the reaction mixture was concentrated by evaporation in vacuo, the residue was mixed with water, and the aqueous solution was made alkaline with 6 N sodium hydroxide solution and extracted several times with ether. The ether phases were again washed with water, dried over sodium sulfate and concentrated by evaporation in vacuo. After evaporating again with benzene, a brown oil remained which was dissolved in isopropyl alcohol. The hydrochloride was precipitated with isopropanolic hydrochloric acid and then recrystallized from isopropyl alcohol.

reactant | 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylic acid hydrochloride | 0.096 mol, 3.1 gm | Cl.C(C1=CC=CC=C1)N1CCC2=C(CC1)C=C(S2)C(=O)O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-Benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC2=C(CC1)C=CS2 | InChI=1S/C15H17NS.ClH/c1-2-4-13(5-3-1)12-16-9-6-14-8-11-17-15(14)7-10-16;/h1-5,8,11H,6-7,9-10,12H2;1H
